* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\opamp LM833.asc
XU1 N002 N003 +Vcc -Vcc Vout LM833
R1 N003 0 1k
R2 Vout N003 80k
R3 N002 N001 220k
Vin N001 0 AC 1
V2 +Vcc 0 15
V3 -Vcc 0 -15
.ac dec 100 100 10Meg
.lib C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\Modelos de SPICE de opamps\LM833 ST\Opamps_Comparators_ST.lib
.backanno
.end
