* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\LTspice\opamp LM833.asc
XU1 N001 N002 +Vcc -Vcc Vout LM833
R1 N002 0 1k
R2 Vout N002 80k
R3 N001 Vin 220K
Vin Vin 0 PULSE(0 10 10m 0.01m 0.01m 10m) AC 100m
V2 +Vcc 0 15
V3 -Vcc 0 -15
C2 Vout 0 120p
.ac dec 100 1m 100Meg
;.tran 1
.lib C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\Modelos de SPICE de opamps\LM833 ST\Opamps_Comparators_ST.lib
.backanno
.end
